US04804661
5 g of 1-[2-(4-chlorophenyl)-ethyl]piperazine are dissolved in 75 ml of dichloromethane, and a solution of 4.65 g of 2-trifluoromethylbenzoyl chloride is added dropwise within a period of 10 minutes. The whole is heated under reflux for 5 minutes, allowed to stand at room temperature for 1 hour, is concentrated to dryness by evaporation, extracted with warm acetone and precipitated with hexane. 1-[2-(4-chlorophenyl)-ethyl]-4-(2-trifluoromethylbenzoyl)-piperazine hydrochloride having a melting point of 212°-214° is obtained.

reactant | 1-[2-(4-chlorophenyl)-ethyl]piperazine | 5 g | ClC1=CC=C(C=C1)CCN1CCNCC1 | C12H17ClN2
reactant | 2-trifluoromethylbenzoyl chloride | 4.65 g | FC(C1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | 1-[2-(4-chlorophenyl)-ethyl]-4-(2-trifluoromethylbenzoyl)-piperazine hydrochloride | Cl.ClC1=CC=C(C=C1)CCN1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | InChI=1S/C20H20ClF3N2O.ClH/c21-16-7-5-15(6-8-16)9-10-25-11-13-26(14-12-25)19(27)17-3-1-2-4-18(17)20(22,23)24;/h1-8H,9-14H2;1H
